US07875639B2
Adamantane-1-carboxylic acid (5-chloro-thiazol-2-yl)-amide
A mixture of 2-amino-5-chlorothiazole (2.00 g, 14.9 mmol), 1-adamantanecarbonyl chloride (3.54 g, 17.8 mmol), 4-dimethylaminopyridine (1.10 g, 0.90 mmol) and triethylamine (4.15 mL, 23.0 mmol) in 80 mL of THF was stirred at 80° C. for 48 hours The mixture was cooled to ambient temperature, diluted with 100 mL of ethyl acetate and washed with brine. The layers were separated and the aqueous phase was extracted twice with 50 mL of ethyl acetate. The combined organic extracts were dried over anhydrous Na2SO4, filtered, and concentrated. Purification by column chromatography (SiO2, dichloromethane) afforded 2.27 g of the title compound: MS (DCI/NH3) m/z 297 (M+H)+.

reactant | 2-amino-5-chlorothiazole | 14.9 mmol, 2.00 g | NC=1SC(=CN1)Cl | C3H3ClN2S
reactant | 1-adamantanecarbonyl chloride | 17.8 mmol, 3.54 g | C12(CC3CC(CC(C1)C3)C2)C(=O)Cl | C11H15ClO
reactant | triethylamine | 23.0 mmol, 4.15 mL | C(C)N(CC)CC | C6H15N
catalyst | 4-dimethylaminopyridine | 0.90 mmol, 1.10 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | THF | 80 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | Adamantane-1-carboxylic acid (5-chloro-thiazol-2-yl)-amide | 2.27 g | ClC1=CN=C(S1)NC(=O)C12CC3CC(CC(C1)C3)C2 | C14H17ClN2OS
